US07465806B2
To a solution of 5-phenyl-1H-pyrrole-2-carboxylic acid (1-isopropyl-piperidin-4-yl)-amide (50 mg) in DMF (2 mL) was added Cs2CO3 (105 mg). The mixture was stirred for 30 min at RT. 3-Bromomethyl-5-(5-chloro-thiophen-2-yl)-isoxazole (45 mg) was added and stirring was continued for 3 h at RT. The mixture was filtered and directly subjected to preparative HPLC(CH3CN/H2O gradient+0.05% TFA) to give 1-[5-(5-chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-5-phenyl-1H-pyrrole-2-carboxylic acid (1-isopropyl-piperidin-4-yl)-amide (15 mg) as its trifluoroacetate salt. MS (ESI+): m/e=509 [M+H]+, chloro pattern.

reactant | 5-phenyl-1H-pyrrole-2-carboxylic acid (1-isopropyl-piperidin-4-yl)-amide | 50 mg | C(C)(C)N1CCC(CC1)NC(=O)C=1NC(=CC1)C1=CC=CC=C1 | C19H25N3O
reactant | Cs2CO3 | 105 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 3-Bromomethyl-5-(5-chloro-thiophen-2-yl)-isoxazole | 45 mg | BrCC1=NOC(=C1)C=1SC(=CC1)Cl | C8H5BrClNOS
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 1-[5-(5-chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-5-phenyl-1H-pyrrole-2-carboxylic acid (1-isopropyl-piperidin-4-yl)-amide | 15 mg | C(C)(C)N1CCC(CC1)NC(=O)C=1N(C(=CC1)C1=CC=CC=C1)CC1=NOC(=C1)C=1SC(=CC1)Cl | C27H29ClN4O2S
